Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])([H:6])[H:7].[H:1][O:2][C:3][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],3.43935164551
[O:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])=[C:5]([H:6])[H:7].[O:1]=[C:2]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.76322410859
[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[O:7][C:8][O:9][C:10]1([H:11])[H:12]>>[H:1][C:2]([H:3])[O:7][C:8][O:9][C:10]([C:5]([H:4])([H:6])[H:12])[H:11],3.61772457576
[H:1][O:2][C:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6](=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14],3.0910394254000004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])=[C:10]([H:11])[H:12]>>[C:6](=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])[H:5],2.00101725501
[H:1][C:2]([H:3])[C:4]1=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],0.4078754216800001
[H:7].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-1.71731181489
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:9].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:10]([H:11])([H:12])[H:13],2.08775126348
[O:12][H:13].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.21454701486
[O:1]=[C:2]=[C:3][O:4][H:5]>>[C:3][O:4][H:5].[O:1]=[C:2],1.5826724399599998
[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]#[C:7][H:8]>>[O:1]=[C:2][C@:3]1([H:4])[O:5][C:6][C:7]1[H:8],1.58788563699
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])[O:7][H:8]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],-3.23480653873
[H:1][C:2]([H:3])[O:4][C:5]1[C:6]2[O:7][C@@:8]12[H:9]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:8](/[O:7][C:6])[H:9],1.52606804555
[C:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.5702246432799998
[H:11].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.921493970299999
[H:3].[O:1]=[C:2][O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.28363846746
[H:1][C:2]#[C:3][O:5][H:6].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][H:6],-2.10755085512
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12].[O:1],7.95267994536
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:10]([H:11])[H:12].[H:9],4.82161415436
[H:10].[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-4.74198901024
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[H:1],5.55242902543
[O:1]=[C:2]([O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[C:2]([O:3])[C:10]([H:11])([H:12])[H:13],4.84121205884
[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4][O:5][C:6]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9],-6.33333611156
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.87943208097
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])[H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.53294932725
[H:1][C:2]([H:3])=[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-1.7948455797999998
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7]=[O:8]>>[H:6].[O:1][C:2]([H:3])([H:4])[C:5]=[C:7]=[O:8],4.45114296149
[H:5].[O:1]=[C:2][O:3][C:4]=[C:6]([H:7])[H:8]>>[O:1]=[C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.01258457806
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9]>>[C:1](=[C:2]=[O:3])[O:4][C:5]([H:6])([H:7])[C:8][H:9],-1.7771108449000002
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],6.80003470569
